US04616086
n-Butyl 4-{1-[4-(2-hydroxypropyl)-phenyl]-piperazin-4-yl}-benzoate
A mixture of 13.1 g. (50 mmole) n-butyl 4-(piperazin-1-yl)-benzoate, 2.9 g. (50 mmole) propylene oxide and 6 ml. methanol is stirred for 24 hours at 20° C. The solvent is then evaporated off and the residue is triturated with ligroin to give a yield of 78% of theory of the desired product; m.p. 85°-86° C.

reactant | n-butyl 4-(piperazin-1-yl)-benzoate | 50 mmole | N1(CCNCC1)C1=CC=C(C(=O)OCCCC)C=C1 | C15H22N2O2
reactant | propylene oxide | 50 mmole | C1C(C)O1 | C3H6O
solvent | methanol | CO | CH4O
product | n-Butyl 4-{1-[4-(2-hydroxypropyl)-phenyl]-piperazin-4-yl}-benzoate | yield of 78% | OC(CC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)OCCCC)C=C1)C | C24H32N2O3
